US03931168
B. 1 -(m-Fluorocinnamamido)hydantoin
To 99.5 g (0.6 mole) of m-fluorocinnamic acid was added dropwise thionyl chloride (600 ml) followed by heating at reflux for 2 hours. The excess thionyl chloride was removed in vacuo and the residue remaining flushed with dry benzene. The reaction residue was chilled on an ice bath followed by the rapid addition of 1-aminohydantoin hydrochloride (91 g, 0.6 mole). To the cold reaction mixture was added dropwise pyridine (600 ml). After the addition was complete the cold reaction mixture was heated on a steam bath for 3 hours then poured into 6 l. of HCl/ice. Upon standing at room temperature overnight the acidic reaction mixture was filtered and washed with water to give 116 g (73.5%) which after recrystallization from CH3NO2 melted at 294°-296°.

reactant | m-fluorocinnamic acid | 0.6 mole, 99.5 g | FC=1C=C(C=CC(=O)O)C=CC1 | C9H7FO2
reactant | thionyl chloride | 600 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-aminohydantoin hydrochloride | 0.6 mole, 91 g | Cl.NN1C(=O)NC(=O)C1
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
product | 1 -(m-Fluorocinnamamido)hydantoin | FC=1C=C(C=CC(=O)NN2C(=O)NC(=O)C2)C=CC1 | C12H10FN3O3
